US05418212
Preparation of 2-(4,6-dimethoxypyrimidin-2-yl)-3-methylbutyric acid
10 g of diethyl 2-(4,6-dimethoxypyrimidin-2-yl)- 2-isopropylmalonate, 5,0 g of sodium hydroxide, 20 ml of water and 50 ml of methanol were placed in a round bottomed flask, and were stirred under heat-refluxing for 6 hours. The reaction liquor was concentrated, and 100 ml of water was added thereto. The reaction liquor was adjusted to a pH of from 3 to 4 with a dilute hydrochloric acid under cooling with ice, and was extracted twice with 100 ml of diethyl ether. The extracted liquor was washed with water, and was dried with anhydrous sodium sulfate for one night. After filtrating the inorganic salt, the solvent was distilled off under reduced pressure to obtain 5.8 g of a crude crystal. The crude crystal thus obtained was recrystallized from ether-hexane to obtain 5.3 g of the aimed product of white powder (yield=75.1%) having a melting point of 99°-101° C.

reactant | diethyl 2-(4,6-dimethoxypyrimidin-2-yl)- 2-isopropylmalonate | 10 g | COC1=NC(=NC(=C1)OC)C(C(=O)OCC)(C(=O)OCC)C(C)C | C16H24N2O6
reactant | sodium hydroxide | 5,0 g | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4,6-dimethoxypyrimidin-2-yl)-3-methylbutyric acid | 5.3 g | COC1=NC(=NC(=C1)OC)C(C(=O)O)C(C)C | C11H16N2O4
